US06121271
2-Butyryloxy-4-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-benzoic acid
Using 4-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid (0.325 g, 0.531 mmol), butyric anhydride (4.23 mL) and magnesium iodide (0.148 g, 0.531 mmol) the title compound was prepared according to the procedure in Example 5. Purification on 2% H3PO4 /MeOH treated Biotage KP-Sil, eluting with 20% EtOAc/pet. ether gave 0.164 g (45%) of the title compound as a white solid, mp 110-115° C.; 1H NMR (DMSO-d6) δ 0.97 (t, 3 H), 1.58 (s, 3 H), 1.66 (sextet, 2 H), 2.15 (s, 6 H), 2.45 (s, 3 H), 2.60 (t, 2 H), 7.19 (s, 2 H), 7.46-7.53 (m, 2 H), 7.67 (t, 1 H), 7.92 (d, 1 H), 8.05 (dd, 1 H), 8.23 (t, 2 H), 13.80-13.95 (br.s, 1 H). mass spectrum (-ESI), m/z 679/681 (M-H). Anal. Calcd. for C33H29BrO7S2 : C, 58.15; H, 4.29 N, 0.00. Found: C, 57.83; H, 4.61 N, 0.04.

reactant | 4-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid | 0.531 mmol, 0.325 g | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(OS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O)C(=C2)C)C | C29H23BrO6S2
reactant | butyric anhydride | 4.23 mL | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | magnesium iodide | 0.531 mmol, 0.148 g | [I-].[Mg+2].[I-]
product | 2-Butyryloxy-4-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-benzoic acid | C(CCC)(=O)OC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)OC1=C(C=C(C=C1C)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)C | C33H29BrO7S2
